* C:\sandbox\spicelib\examples\testfiles\top_circuit.asc
V1 N001 0 PULSE(0 1 1n 1n 1n 1u 1u 1)
R1 N002 N001 10
XX1 N002 N003 sub_circuit
R2 N003 0 1k

* block symbol definitions
.subckt sub_circuit IN OUT
C1 OUT 0 1n
C2 IN 0 1n
L1 IN OUT 1µ
.ends sub_circuit

.tran 2u
.backanno
.end
